US08058285B2
Synthesis of 7-(3,4-dimethoxyphenyl)-9-methyl-4-piperazin-1-yl-2-n-propyl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine
0.42 g (1.0 mmol) 4-chloro-7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine and 0.37 g (4.3 mmol) piperazine in 8 ml tetrahydrofuran are stirred at room temperature for 4 h. Having removed the solvent, the residue is suspended in 10 ml water and sucked off. The residue is suspended in about 50 ml dichloromethane and filtrated. The filtrate is washed with a total of 30 ml water, dried on sodium sulfate and the solvent is removed. The residue is recrystallized from ethyl acetate. 0.17 g (37%) of the title substance is obtained.

reactant | 4-chloro-7-(3,4-dimethoxyphenyl)-9-methyl-2-propyl-pyrido-[3′,2′:4,5]thieno[3,2-d]pyrimidine | 1.0 mmol, 0.42 g | ClC=1C2=C(N=C(N1)CCC)C1=C(S2)N=C(C=C1C)C1=CC(=C(C=C1)OC)OC | C21H20ClN3O2S
reactant | piperazine | 4.3 mmol, 0.37 g | N1CCNCC1 | C4H10N2
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | 7-(3,4-dimethoxyphenyl)-9-methyl-4-piperazin-1-yl-2-n-propyl-pyrido[3′,2′:4,5]thieno[3,2-d]pyrimidine | COC=1C=C(C=CC1OC)C=1C=C(C2=C(SC3=C2N=C(N=C3N3CCNCC3)CCC)N1)C | C25H29N5O2S
